US04021434
In 10 ml. of dimethylformamide was suspended 0.5 g. of 9-(3-nitrophenyl)-1,8-dioxo-1,2,3,4,5,6,7,8,9,10-decahydroacridine and after adding to the suspension 0.2 g. of a 50% oil dispersion of sodium hydride, the mixture was stirred for 1.5 hours at room temperature. After cooling the mixture to -10° C., 0.5 ml. of chloromethoxyethane was added thereto, the temperature of the mixture was elevated to room temperature over a period of about 20 minutes, stirred for 2 hours and the mixture was cooled again to -10° C. Then, after adding to the reaction product 0.5 ml. of glacial acetic acid and 20 ml. of water, the product was extracted three times each time with 5 ml. of ether. The extracts were combined, washed with 5 ml. of saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, and then ether was distilled away. The residue became crystallized by the addition of 5 ml. of ethanol. The crystals were filtered, dissolved in 2 ml. of chloroform and recrystallized by the addition of ethanol and 0.4 g. of pale brown prismatic crystals of 10-ethoxymethyl-9-(3-nitrophenyl)-1,8-dioxo- 1,2,3,4,5,6,7,8,9,10-decahydroacridine melting at 222° C. were obtained.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 9-(3-nitrophenyl)-1,8-dioxo-1,2,3,4,5,6,7,8,9,10-decahydroacridine | [N+](=O)([O-])C=1C=C(C=CC1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O | C19H18N2O4
reactant | sodium hydride | [H-].[Na+]
reactant | chloromethoxyethane | ClCOCC | C3H7ClO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 10-ethoxymethyl-9-(3-nitrophenyl)-1,8-dioxo- 1,2,3,4,5,6,7,8,9,10-decahydroacridine | C(C)OCN1C=2CCCC(C2C(C=2C(CCCC12)=O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C22H24N2O5
